US04474747
(a) Preparation of 2,4,6-tribromo-5-cyanoisophthalic acid
2,4,6-Tribromo-5-amino-isophthalic acid (232 g; 0.555 mole) is dissolved in concentrated sulfuric acid (500 ml) and the solution is then cooled by means of an ice-bath to a temperature between 0° and 5° C. Sodium nitrite (77 g; 1.11 mole) is then added portionwise over 1 hour while maintaining the temperature at 0°-5° C., and the mixture is stirred for a further 2 hours at that temperature. The mixture is then slowly poured over ice, with stirring, and the excess sodium nitrite is destroyed with a sufficient amount of urea solution. While still maintaining the temperature at 0°-5° C., the suspension is neutralized at pH 6 by addition of 5N sodium hydroxide. The mixture is then added to a solution of cuprous chloride (69 g; 0.694 mole) and sodium cyanide (89 g; 1.82 mole) in 1 liter water, and the solution is stirred overnight at room temperature. The pH of the solution is adjusted to 3 by addition of hydrochloric acid, the copper salt precipitate is suction filtered, and the pH is adjusted to 1 with hydrochloric acid. The solution is cooled in an ice-bath and stirring is maintained for a further 16 hours. The resulting precipitate is suction filtered; it is then taken up into 400 ml water, with stirring, plus a sufficient amount of sodium hydroxide for dissolution and neutral pH. The solution is decolorized by stirring for 1 hour with charcoal 3 SA, after which the charcoal is filtered off, and the material is precipitated with dilute hydrochloric acid to give, after suction filtering and washing with a small amount of water, 130 g of white product (Yield: 55%).

reactant | 2,4,6-Tribromo-5-amino-isophthalic acid | 0.555 mole, 232 g | BrC1=C(C(=O)O)C(=C(C(=C1C(=O)O)Br)N)Br | C8H4Br3NO4
reactant | Sodium nitrite | 1.11 mole, 77 g | N(=O)[O-].[Na+]
reactant | sodium cyanide | 1.82 mole, 89 g | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 liter | O | H2O
catalyst | copper | [Cu] | Cu
product | 2,4,6-tribromo-5-cyanoisophthalic acid | 130 g, Yield: 55% | BrC1=C(C(=O)O)C(=C(C(=C1C(=O)O)Br)C#N)Br | C9H2Br3NO4
